Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],1.7013312743
[C:8][H:9].[O:1][O:2][C:3]([H:4])([H:5])[C:6][H:7]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9],-8.49746340123
[C:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4]#[C:5][H:6].[C:7]([H:8])[H:9],5.39425395401
[H:10].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.76405527874
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6][H:7])[C:12]([H:13])([H:14])[H:15],4.87285464073
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1],8.01300797179
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:3].[O:1]=[C:2][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],4.4324571072
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-2.1890873739
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][H:11]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[O:10][H:11],2.88224499393
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])[H:8].[H:1][C:2][C:4]([H:3])([H:5])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],8.83028874885
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8]([H:9])[H:10],2.61002328275
[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1]/[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9](/[H:10])[C:12]([H:13])([H:14])[H:15],1.95555057278
[H:4].[O:1]=[C:2]=[C:3][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.45232082869
[H:1][C:2]=[C:3]([H:4])[C:5]([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][C:3]#[C:6][C:7]([H:8])([H:11])[H:12].[H:4][C:5]#[C:9][H:10],2.39750811451
[C:1]#[C:2].[C:3]#[C:4][O:5][C:6]([H:7])[H:8]>>[C:1]#[C:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8],-6.85001589852
[H:1][C:2]#[C:3][C:4]1[O:5][C:6]([H:7])[C:8]1([H:9])[H:10]>>[H:1][C:2]#[C:3][C:4]([O:5][C:6][H:7])=[C:8]([H:9])[H:10],0.5267820278700001
[H:1][C:2][C:3](=[O:4])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12].[H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-3.5263339852900004
[H:10].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.30840768637
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:11]([H:12])([H:13])[H:14],4.807076888359999
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15]>>[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]([H:4])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15],3.860090665490001
[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])=[C:9]([H:10])[H:11].[H:8]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11],-4.3619003243
[H:1].[O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.61133917552
[H:1][O:2][C:3]([H:4])[H:5].[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.74870236442
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]#[C:12][H:13],2.03087600565
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[C:4]([H:5])([H:6])[H:7].[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[C:11]#[C:12][H:13],1.5392964612600002
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4],1.89810353019
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][H:9],7.2358165215499985
